US08202873B2
Stir together 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (1.6 g, 8.43 mmol) and 1-phenyl-1H-pyrazole-4-carbaldehyde (2.17 g, 12.6 mmol) in dry tetrahydrofuran (10 mL) at room temperature for 15 min., under nitrogen. Add sodium triacetoxyborohydride (2.68 g, 12.6 mmol) and stir reaction for 1 hr. Quench reaction mixture with saturated aq. sodium bicarbonate (50 mL), then extract with DCM (3×50 mL) and pass through an IST Phase Separator Frit®. Concentrate and purify (silica gel chromatography, eluting with 5:95 methanol:DCM) and concentrate all fractions containing product. Pass the mixture through a CBA column to retain the product, wash with methanol and then elute with 2 M ammonia in methanol. Evaporate the ammonia methanol solution and purify (silica gel chromatography, eluting with 0:100 then 5:95 methanol:DCM). Concentrate, wash with diethyl ether and dry in vacuum oven to give 3′-chloro-4-(1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl as brown powder (2.25 g, 76%). MS (ES): m/z=355 [M+H]+.

reactant | 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 8.43 mmol, 1.6 g | ClC=1C(=NC=CN1)N1CCNCC1 | C8H11ClN4
reactant | 1-phenyl-1H-pyrazole-4-carbaldehyde | 12.6 mmol, 2.17 g | C1(=CC=CC=C1)N1N=CC(=C1)C=O | C10H8N2O
reactant | sodium triacetoxyborohydride | 12.6 mmol, 2.68 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3′-chloro-4-(1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 2.25 g, 76% | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)C1=CC=CC=C1 | C18H19ClN6
